US04146625
A mixture of 66.1 g of 4-fluoro-2-methyl-N-(2,2,2-trifluoroethyl)aniline and 75.0 g of diethyl ethoxymethylenemalonate was heated at 160° for 20 hours. Eight hundred grams of polyphosphoric acid (ca. 400 ml) was added and the resulting mixture heated at 105°-115° for 20 minutes. The hot reaction mass was poured onto 1 kg of cracked ice to hydrolyze the polyphosphoric acid; the resulting solid was filtered and recrystallized from acetonitrile to yield 45.2 g of 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, ethyl ester, m.p. 154°-158°.

reactant | 4-fluoro-2-methyl-N-(2,2,2-trifluoroethyl)aniline | 66.1 g | FC1=CC(=C(NCC(F)(F)F)C=C1)C | C9H9F4N
reactant | diethyl ethoxymethylenemalonate | 75.0 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | 6-fluoro-1,4-dihydro-8-methyl-4-oxo-1-(2,2,2-trifluoroethyl)-3-quinolinecarboxylic acid, ethyl ester | 45.2 g | FC=1C=C2C(C(=CN(C2=C(C1)C)CC(F)(F)F)C(=O)OCC)=O | C15H13F4NO3
